US07399759B2
2-[6-(2-Thienyl)-2-pyridyl]-4H-1,3-benzothiazin-4-one
6-(2-Thienyl)-2-pyridinecarbonitrile (0.56 g, 3.0 mmol) and methyl thiosalicylate (0.77 g, 4.6 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The reaction mixture was refluxed for 10 hrs. After cooling, the precipitates were collected by filtration and recrystallized from tetrahydrofuran-hexane to give the titled compound (0.84 g, 86%) as pale yellow crystals.

reactant | 6-(2-Thienyl)-2-pyridinecarbonitrile | 3.0 mmol, 0.56 g | S1C(=CC=C1)C1=CC=CC(=N1)C#N | C10H6N2S
reactant | methyl thiosalicylate | 4.6 mmol, 0.77 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(2-Thienyl)-2-pyridyl]-4H-1,3-benzothiazin-4-one | 0.84 g, 86% | S1C(=CC=C1)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C17H10N2OS2
